US06927228B2
(b) N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylheptanamide
In a manner similar to that of Example 1(g), starting with 360 mg (0.8 mmol) of N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methylheptanamide in 15 ml of dioxane, under 3 atm, 230 mg (66%) of the desired product are obtained in the form of a colorless film.

reactant | N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methylheptanamide | 0.8 mmol, 360 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCC)=O)C | C25H28N2O3S
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylheptanamide | 230 mg, 66% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCC)=O)C | C25H30N2O3S
